US08012974B2
7-Methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-ylamine (41 mg, 0.147 mmol) was dissolved in 1,2-dichloroethane (1.5 mL). Cyclohexylisocyanate (0.19 mL, 1.47 mmol) was added and the reaction mixture was heated to reflux for 64 hr, cooled to RT, concentrated, purified by SiO2 chromatography (8 g SiO2, hexanes/EtOAc 0-50% EtOAc) to give 38 mg of 1-cyclohexyl-3-[7-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea as a white solid (64% yield).

reactant | 7-Methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-ylamine | 0.147 mmol, 41 mg | CC1=CN(C2=NC=C(N=C21)N)COCC[Si](C)(C)C | C13H22N4OSi
reactant | Cyclohexylisocyanate | 1.47 mmol, 0.19 mL | C1(CCCCC1)N=C=O | C7H11NO
solvent | 1,2-dichloroethane | 1.5 mL | ClCCCl | C2H4Cl2
product | 1-cyclohexyl-3-[7-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea | 38 mg, 64% yield | C1(CCCCC1)NC(=O)NC=1N=C2C(=NC1)N(C=C2C)COCC[Si](C)(C)C | C20H33N5O2Si
